US05424444
24a. N-Cbz-L-proline
L-Proline (10 g, 86.6 mmol) was dissolved in 66 mL of 2N NaOH and cooled to 0° C. To this solution were slowly and simultaneously added 34.35 mL of a solution of phenyl chloroformate in toluene (104.2 mmol) and 33 mL of 4N NaOH, over a period of 1 hr, while maintaining the reaction temperature at 0° C. and the pH above 7. After all reactants were added, the reaction was stirred for 6 hr at room temperature. The solution was then extracted with ether. The remaining aqueous layer was neutralized to pH 6-7 with 1N HCl, then extracted with ethyl acetate. The extract was dried over Na2SO4 and concentrated to afford 21.19 g of the title product (98% yield). 1H NMR (CDCl3) δ 9.55 (d, 1H), 7.3 (s, 5H), 5.25 (d, 2H), 4.35 (t, 1H), 4.20 (t, 1H), 1.8-2.2 (m, 4H).

reactant | L-Proline | 86.6 mmol, 10 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | toluene | 104.2 mmol | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 2N, 66 mL | [OH-].[Na+]
solvent | NaOH | 4N, 33 mL | [OH-].[Na+]
product | N-Cbz-L-proline | 21.19 g, 98% yield | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
